US05434188
To a room temperature solution of 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid (200 0.77 mmol) in 5 mL of THF is added oxalyl chloride (0.08 mL, 0.92 mmol) followed by DMF (0.015 mL). The solution is stirred at room temperature for 2 hours. Isopropylamine (0.39 mL) is added and the reaction mixture is stirred at room temperature overnight. The reaction mixture is diluted with ethyl acetate and washed with 1N HCI, saturated NaHCO3, and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo. The crude product is chromatographed on silica gel eluting with hexane:ethyl acetate (2:1) to provide 7-methoxy-1-(1-methylethoxy)-N-(1-methylethyl)-2-naphthalenecarboxamide in 72% yield; mp 62°-64° C.

reactant | 7-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid | 0.77 mmol | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)O | C15H16O4
reactant | oxalyl chloride | 0.92 mmol, 0.08 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.015 mL | CN(C)C=O | C3H7NO
reactant | Isopropylamine | 0.39 mL | C(C)(C)N | C3H9N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-methoxy-1-(1-methylethoxy)-N-(1-methylethyl)-2-naphthalenecarboxamide | 72% yield | COC1=CC=C2C=CC(=C(C2=C1)OC(C)C)C(=O)NC(C)C | C18H23NO3
